US05223529
N,N,'-Carbonyldiimidazole (0.72 g) is added to a solution of 2-amino-N,N-diphenylacetamide (1 g) in anhydrous tetrahydrofuran (15 cc). The solution is stirred for 2 hours at a temperature in the region of 25° C. and 3-methylthioaniline (1.2 g) is then added. The solution obtained is stirred under reflux for 12 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is taken up with distilled water (60 cc) and stirred for 30 minutes at a temperature in the region of 20° C. The insoluble product is separated by filtration, washed with distilled water and dried in the air. After recrystallization in acetonitrile, 2-[3-(3-methylthiophenyl)ureido]-N,N-diphenylacetamide (1 g), m.p. 182° C., is obtained.

reactant | 2-amino-N,N-diphenylacetamide | 1 g | NCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C14H14N2O
reactant | 3-methylthioaniline | 1.2 g | CSC=1C=C(N)C=CC1 | C7H9NS
reactant | water | 60 cc | O | H2O
reactant | tetrahydrofuran | 15 cc | O1CCCC1 | C4H8O
product | 2-[3-(3-methylthiophenyl)ureido]-N,N-diphenylacetamide | 1 g | CSC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H21N3O2S
